US07226951B2
(3-tert-Butyl-phenylethynyl)-trimethyl-silane (Intermediate 102)
Following General Procedure D and using trifluoromethanesulfonic acid, 3-tert-butyl-phenyl ester (Intermediate-101, 2.54 g, 0.9.0 mmol), triethyl amine (2 mL), copper(I)iodide (0.63 g, 3.33 mmol), trimethylsilyl acetylene (5 mL, 36 mmol) and, dichlorobis(triphenylphosphine)palladium(II) (1.6 g, 2.25 mmol) followed by flash column chromatography over silica gel (230–400 mesh) using 10% ethyl acetate in hexane as the eluent, the title compound was obtained as a brown oil that was used as such for the next step.

reactant | trifluoromethanesulfonic acid, 3-tert-butyl-phenyl ester | 2.54 g | FC(S(=O)(=O)OC1=CC(=CC=C1)C(C)(C)C)(F)F | C11H13F3O3S
reactant | triethyl amine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl acetylene | 36 mmol, 5 mL | C[Si](C)(C)C#C | C5H10Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | copper(I)iodide | 3.33 mmol, 0.63 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 2.25 mmol, 1.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (3-tert-Butyl-phenylethynyl)-trimethyl-silane | C(C)(C)(C)C=1C=C(C=CC1)C#C[Si](C)(C)C | C15H22Si
